US06054621
2 g (0.00665 mol) of S-methyl 2-(2,5-dimethylphenoxymethyl)-phenylthioacetate and 2 g (0.0115 mol) of bis-(dimethylamino)-tert-butoxymethane are heated to 60° C. for 1 hour. The mixture is then admixed with 6 ml of dimethylformamide and 3 ml of concentrated aqueous hydrochloric acid and heated to 60° C. for a further hour. The reaction mixture is admixed with water and extracted with dichloromethane. The combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. The resulting crude intermediate, S-methyl 2-[2-(2,5-dimethylphenoxymethyl)-phenyl]-2-hydroxymethylidene-thio acetate, is dissolved in 10 ml of dimethylformamide, admixed first with 1.6 g (0.0116 mol) of potassium carbonate and then with 0.8 g (0.00634 mol) of dimethyl sulphate and stirred at 20° C. for 24 hours. The mixture is poured into water and extracted with dichloromethane, the organic phase is dried over sodium sulphate, the solvent is distilled off under reduced pressure and the residue is chromatographed over silica gel using diethyl ether/petroleum ether (1:1). 0.5 g (22.9% of theory) of S-methyl 2-[2-(2,5-dimethylphenoxymethyl)-phenyl]-2-methoxymethylidene-thioacetate is obtained.

reactant | S-methyl 2-(2,5-dimethylphenoxymethyl)-phenylthioacetate | 0.00665 mol, 2 g | CC1=C(OCC2=C(C=CC=C2)CC(=O)SC)C=C(C=C1)C | C18H20O2S
reactant | bis-(dimethylamino)-tert-butoxymethane | 0.0115 mol, 2 g | CN(C)C(OC(C)(C)C)N(C)C | C9H22N2O
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | potassium carbonate | 0.0116 mol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 0.00634 mol, 0.8 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | S-methyl 2-[2-(2,5-dimethylphenoxymethyl)-phenyl]-2-methoxymethylidene-thioacetate | 0.5 g, 22.9% | CC1=C(OCC2=C(C=CC=C2)C(C(=O)SC)=COC)C=C(C=C1)C | C20H22O3S
